US04146715
9-(2-Hydroxyethylthiomethyl)adenine
Following the procedure of Schaeffer, et al. J. Med. Chem. 14, 367 (1971), 2-acetoxyethyl chloromethyl sulfide (3.37 g) was added to a mixture of 6-chloropurine (3.09 g), triethylamine (2.23 g) and dimethylformamide (20 ml). The reaction mixture was stirred at room temperature for 90 hours and the solvent then removed under reduced pressure. The residual oil was dissolved in chloroform (30 ml) and placed on a column of Florisil (200 g) in chloroform. Elution with chloroform resulted in the desired product in 2.1 liters of eluate (after discarding the initial 300 ml collected). The solvent was evaporated to give a residual oil. Ether-pet.ether was added and the mixture chilled to give 9-(2-acetoxyethylthiomethyl)-6-chloropurine (1.4 g, mp 82°-87° C.). Recrystallization from ether gave white prisms m.p. 89°-91° C.).

reactant | 2-acetoxyethyl chloromethyl sulfide | 3.37 g | ClCSCCOC(C)=O | C5H9ClO2S
reactant | 6-chloropurine | 3.09 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | triethylamine | 2.23 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 9-(2-Hydroxyethylthiomethyl)adenine | OCCSCN1C2=NC=NC(=C2N=C1)N | C8H11N5OS
